US05298652
A mixture of 2 g (4 mmol) of 3-hydroxy-5-(octadecyloxy)benzoic acid phenylmethyl ester, 3.65 g (15.8 mmol) of 2-[2-(2-ethoxyethoxy)ethoxy]ethyl bromide, 1.2 g (8 mmol) of sodium iodide and 2.2 g (16 mmol) of potassium carbonate in 60 ml of acetone and 30 ml of DMF was stirred at reflux for 40 hours. The usual workup followed by chromatography of the crude product on 200 g of silica gel using 40% ethyl acetate-hexane gave 1.76 g of 3-[2-[2-(2-ethoxyethoxy)ethoxy]ethoxy]-5-(octadecyloxy)benzoic acid phenylmethyl ester as an oil. The nmr and mass spectra were compatible with the structure.

reactant | 3-hydroxy-5-(octadecyloxy)benzoic acid phenylmethyl ester | 4 mmol, 2 g | C1(=CC=CC=C1)COC(C1=CC(=CC(=C1)OCCCCCCCCCCCCCCCCCC)O)=O | C32H48O4
reactant | 2-[2-(2-ethoxyethoxy)ethoxy]ethyl bromide | 15.8 mmol, 3.65 g | C(C)OCCOCCOCCBr | C8H17BrO3
reactant | sodium iodide | 8 mmol, 1.2 g | [I-].[Na+]
reactant | potassium carbonate | 16 mmol, 2.2 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 60 ml | CC(=O)C | C3H6O
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
product | 3-[2-[2-(2-ethoxyethoxy)ethoxy]ethoxy]-5-(octadecyloxy)benzoic acid phenylmethyl ester | 1.76 g | C1(=CC=CC=C1)COC(C1=CC(=CC(=C1)OCCCCCCCCCCCCCCCCCC)OCCOCCOCCOCC)=O | C40H64O7
